US06437184B1
To a mixture of 0.10 g of 4-methyl-2-pentanone and 5 ml of pyridine as added 0.40 g of O-(5-(2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)phenoxy)pentyl)hydroxylamine hydrochloride. After stirring at room temperature for 1 hour, the reaction mixture was poured into 5% aqueous citric acid solution, and extracted twice with ethyl acetate. The ethyl acetate layers were combined, washed with water, dried over anhydrous magnesium sulfate, and concentrated to give a crude product. This crude product was subjected to silica gel chromatography, which afforded 0.42 g (yield, 95.4%) of 4-methyl-2-pentanone O-(5-(2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)phenoxy)-pentyl)oxime, nD24.5 1.5230.

reactant | 4-methyl-2-pentanone | 0.10 g | CC(CC(C)=O)C | C6H12O
reactant | O-(5-(2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)phenoxy)pentyl)hydroxylamine hydrochloride | 0.40 g | Cl.ClC1=C(OCCCCCON)C(=CC(=C1)OCC=C(Cl)Cl)Cl
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 4-methyl-2-pentanone O-(5-(2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)phenoxy)-pentyl)oxime | 0.42 g, 95.4% | ClC1=C(OCCCCCON=C(C)CC(C)C)C(=CC(=C1)OCC=C(Cl)Cl)Cl | C20H27Cl4NO3
